US06660738B2
A solution of 397 mg (1 mmol) (3R,5S)-1-(5-Propyl-pyrimidin-2-yl)-5-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidine-3-thiol (the trifluoro-acetate salt was extracted with aqueous saturated NaHCO3/EtOAc) in 6 ml pyridine were treated at 0° C. with 0.14 ml (2 mmol) acetyl chloride and stirred for 5 h at RT. The reaction was poured on ice water and extracted wit Et2O (3×). The organic phases were washed with aqueous 1 N HCl and 10% NaCl, dried (Na2SO4) and evaporated. Flash chromatography on silica gel (CH2Cl2/Et2O 100:0 to 95:5) gave 383 mg (87%) (3R,5S)-Thioacetic acid S-[1-(5-propyl-pyrimidin-2-yl)-5-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidin-3-yl]ester, MS: 440 (MH+).

reactant | (3R,5S)-1-(5-Propyl-pyrimidin-2-yl)-5-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidine-3-thiol | 1 mmol, 397 mg | C(CC)C=1C=NC(=NC1)N1C[C@@H](C[C@H]1COCC1=C(C=C(C(=C1)F)F)F)S | C19H22F3N3OS
reactant | trifluoro-acetate | FC(C(=O)[O-])(F)F
reactant | acetyl chloride | 2 mmol, 0.14 ml | C(C)(=O)Cl | C2H3ClO
solvent | NaHCO3 EtOAc | C(=O)(O)[O-].[Na+].CCOC(=O)C
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | (3R,5S)-Thioacetic acid S-[1-(5-propyl-pyrimidin-2-yl)-5-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidin-3-yl]ester | 383 mg, 87% | C(CC)C=1C=NC(=NC1)N1C[C@@H](C[C@H]1COCC1=C(C=C(C(=C1)F)F)F)SC(C)=O | C21H24F3N3O2S
